* 7402 model
 
.subckt 7402 Y0 A0 B0 Y1 A1 B1 GND A2 B2 Y2 A3 B3 Y3 VCC

*necessary for proper output calculations
Ro0  Y0 GND 1G
Ro1  Y1 GND 1G
Ro2  Y2 GND 1G
Ro3  Y3 GND 1G

*gates
a0 [A0 B0] Y0 nor
a1 [A1 B1] Y1 nor
a2 [A2 B2] Y2 nor
a3 [A3 B3] Y3 nor

.model nor d_nor (rise_delay=1.0e-6 fall_delay=2.0e-6
+                 input_load=1.0e-12)

.ends
