* 7404 model
 
.subckt 7404 A0 Y0 A1 Y1 A2 Y2 GND Y3 A3 Y4 A4 Y5 A5 VCC

*necessary for proper output calculations
Ro0  Y0 GND 1G
Ro1  Y1 GND 1G
Ro2  Y2 GND 1G
Ro3  Y3 GND 1G
Ro4  Y4 GND 1G
Ro5  Y5 GND 1G

*gates
a0 A0 Y0 inv
a1 A1 Y1 inv
a2 A2 Y2 inv
a3 A3 Y3 inv
a4 A4 Y4 inv
a5 A5 Y5 inv

.model inv d_inverter (rise_delay=1.0e-6 fall_delay=2.0e-6
+                      input_load=1.0e-12)

.ends
