* 74139 model
 
.subckt 74139 nG1 A1 B1 Y10 Y11 Y12 Y13 GND Y23 Y22 Y21 Y20 B2 A2 nG2 VCC

*necessary for proper output calculations
Ro10  Y10 GND 1G
Ro11  Y11 GND 1G
Ro12  Y12 GND 1G
Ro13  Y13 GND 1G
Ro20  Y20 GND 1G
Ro21  Y21 GND 1G
Ro22  Y22 GND 1G
Ro23  Y23 GND 1G

*Y1 gates
a10 [~nG1 ~A1 ~B1] Y10 nand
a11 [~nG1  A1 ~B1] Y11 nand
a12 [~nG1 ~A1  B1] Y12 nand
a13 [~nG1  A1  B1] Y13 nand

*Y2 gates
a20 [~nG2 ~A2 ~B2] Y20 nand
a21 [~nG2  A2 ~B2] Y21 nand
a22 [~nG2 ~A2  B2] Y22 nand
a23 [~nG2  A2  B2] Y23 nand


.model nand d_nand (rise_delay=1.0e-6 fall_delay=2.0e-6
+                   input_load=1.0e-12)

.ends
