* 74195 model
 
.subckt 74195 nMR J nK P0 P1 P2 P3 GND nPE CP nQ3 Q3 Q2 Q1 Q0 VCC

*necessary for proper output calculations
Ro0  Q0 GND 1G
Ro1  Q1 GND 1G
Ro2  Q2 GND 1G
Ro3  Q3 GND 1G
Ro4 nQ3 GND 1G

*input inversions
ai0 nPE PE inv
ai1 nMR MR inv

*DFF0 input
ad00 [nPE  J    nQ0 ] so00  and
ad01 [nPE  nK    Q0 ] so01  and
ad02 [ PE        P0 ] so02  and

ad09 [so00 so01 so02] d0    or

*DFF1 input
ad10 [nPE        Q0 ] so10  and
ad11 [ PE        P1 ] so11  and

ad19 [so10 so11     ] d1    or

*DFF2 input
ad20 [nPE        Q1 ] so20  and
ad21 [ PE        P2 ] so21  and

ad29 [so20 so21     ] d2    or

*DFF3 input
ad30 [nPE        Q2 ] so30  and
ad31 [ PE        P3 ] so31  and

ad39 [so30 so31     ] d3    or

*    d  c  as  ar q  nq
adf0 d0 CP GND MR Q0 nQ0  dff
adf1 d1 CP GND MR Q1 null dff
adf2 d2 CP GND MR Q2 null dff
adf3 d3 CP GND MR Q3 nQ3  dff


.model and  d_and       (rise_delay=1.0e-6 fall_delay=2.0e-6
+                        input_load=1.0e-12)

.model or   d_or        (rise_delay=1.0e-6 fall_delay=2.0e-6
+                        input_load=1.0e-12)

.model inv  d_inverter  (rise_delay=1.0e-6 fall_delay=2.0e-6
+                        input_load=1.0e-12)

.model dff  d_dff       (clk_delay = 13.0e-9 set_delay = 25.0e-9
+                        reset_delay = 27.0e-9 ic = 2 rise_delay = 10.0e-9
+                        fall_delay = 3e-9)


.ends
