* 74257 model
 
.subckt 74257 S ia0 ia1 oa ib0 ib1 ob GND od id1 id0 oc ic1 ic0 nE Vcc

*necessary for proper output calculations
Ro0  oa GND 1G
Ro1  ob GND 1G
Ro2  oc GND 1G
Ro3  od GND 1G

*muxing
aa0 [ia0 ~S  ] sa0 and
aa1 [ia1  S  ] sa1 and
aa2 [sa0  sa1] toa or

ab0 [ib0 ~S  ] sb0 and
ab1 [ib1  S  ] sb1 and
ab2 [sb0  sb1] tob or

ac0 [ic0 ~S  ] sc0 and
ac1 [ic1  S  ] sc1 and
ac2 [sc0  sc1] toc or

ad0 [id0 ~S  ] sd0 and
ad1 [id1  S  ] sd1 and
ad2 [sd0  sd1] tod or


*buffers
ao1 toa ~nE oa tri
ao2 tob ~nE ob tri
ao3 toc ~nE oc tri
ao4 tod ~nE od tri

.model and  d_and       (rise_delay=1.0e-12 fall_delay=2.0e-12
+                        input_load=1.0e-12)

.model or   d_or        (rise_delay=1.0e-12 fall_delay=2.0e-12
+                        input_load=1.0e-12)

.model tri  d_tristate  (input_load=1.0e-12)

.ends

