* 744067
* THIS MODEL IS SUITABLE FOR USE ONLY IN MUX CONFIGURATION
 
.subckt 744067 out I07 I06 I05 I04 I03 I02 I01 I00 S0 S1 GND S3 S2 nE I15 I14 I13 I12 I11 I10 I09 I08 VCC

*necessary for proper output calculations
Ro0 out GND 1G

*muxing
aa00 [I00 ~S3 ~S2 ~S1 ~S0] sa00 and
aa01 [I01 ~S3 ~S2 ~S1  S0] sa01 and
aa02 [I02 ~S3 ~S2  S1 ~S0] sa02 and
aa03 [I03 ~S3 ~S2  S1  S0] sa03 and
aa04 [I04 ~S3  S2 ~S1 ~S0] sa04 and
aa05 [I05 ~S3  S2 ~S1  S0] sa05 and
aa06 [I06 ~S3  S2  S1 ~S0] sa06 and
aa07 [I07 ~S3  S2  S1  S0] sa07 and
aa08 [I08  S3 ~S2 ~S1 ~S0] sa08 and
aa09 [I09  S3 ~S2 ~S1  S0] sa09 and
aa10 [I10  S3 ~S2  S1 ~S0] sa10 and
aa11 [I11  S3 ~S2  S1  S0] sa11 and
aa12 [I12  S3  S2 ~S1 ~S0] sa12 and
aa13 [I13  S3  S2 ~S1  S0] sa13 and
aa14 [I14  S3  S2  S1 ~S0] sa14 and
aa15 [I15  S3  S2  S1  S0] sa15 and

aa99 [sa00 sa01 sa02 sa03 sa04 sa05 sa06 sa07 sa08 sa09 sa10 sa11 sa12 sa13 sa14 sa15] tout or

*buffers
ao1 tout ~nE out tri

.model and  d_and       (rise_delay=1.0e-12 fall_delay=2.0e-12
+                        input_load=1.0e-12)

.model or   d_or        (rise_delay=1.0e-12 fall_delay=2.0e-12
+                        input_load=1.0e-12)

.model tri  d_tristate  (input_load=1.0e-12)

.ends

