* PODMODELE BRAMEK I PRZERZUTNIKÓW
.model d_inv_ls d_inverter(rise_delay=5ns fall_delay=5ns)
.model d_and_ls d_and(rise_delay=5ns fall_delay=5ns)
.model d_or_ls  d_or(rise_delay=5ns fall_delay=5ns)
.model d_dff_ls d_dff(clk_delay=5ns set_delay=2ns reset_delay=2ns ic=0)

* PODMODEL: 1-BIT DFF Z ENABLE
.subckt DFF_EN D nE CP Q
  a_inv1 nE nE_inv d_inv_ls
  a_and1 [D nE_inv] D_new d_and_ls
  a_and2 [Q nE] D_old d_and_ls
  a_or1  [D_new D_old] D_final d_or_ls
  
  a_dff D_final CP NULL NULL Q Q_n d_dff_ls
.ends

* 74LS377
.SUBCKT 74LS377 nE Q0 D0 D1 Q1 Q2 D2 D3 Q3 GND CP Q4 D4 D5 Q5 Q6 D6 D7 Q7 VCC

R1 nE GND 1G
R2 CP GND 1G
R3 D0 GND 1G
R4 D1 GND 1G
R5 D2 GND 1G
R6 D3 GND 1G
R7 D4 GND 1G
R8 D5 GND 1G
R9 D6 GND 1G
R10 D7 GND 1G

* Instancje 8 przerzutników
X1 D0 nE CP Q0 DFF_EN
X2 D1 nE CP Q1 DFF_EN
X3 D2 nE CP Q2 DFF_EN
X4 D3 nE CP Q3 DFF_EN
X5 D4 nE CP Q4 DFF_EN
X6 D5 nE CP Q5 DFF_EN
X7 D6 nE CP Q6 DFF_EN
X8 D7 nE CP Q7 DFF_EN

.ENDS